US04631286
3,4-Dihydro-9-(phenethylamino)acridin-1(2H)-one
In a mixture consisting of 300 ml of dichloromethane and 200 ml of 50% NaOH were combined 10.00 g of 9-amino-3,4-dihydroacridin-1(2H)-one, 28 ml (6 eq) of 2-phenethyl bromide, and 3 g (0.2 eq) of tetrabutylammonium hydrogensulfate catalyst. The mixture was mechanically stirred for 4 days, during which 28 ml of 2-phenethyl bromide was added at intevals of 12 hours. After 4 days the reaction would go no further. The layers were separated and the dichloromethane layer was evaporated to an oil, which was extracted into 3N HCl and washed with EtOAc. The HCl solution was then made basic with 10% NaOH. The resulting precipitate was extracted into dichloromethane and the dichloromethane layer was evaporated to an oil containing mostly the starting material and the end product. The purification method was chromatography on silica gel with 20% EtOAc/dichloromethane solvent. The product thus obtained was recrystallized from dichloromethane/hexanes to yield 2.52 g (17%) of a solid, melting point 129°-132° C.

reactant | NaOH | 200 ml | [OH-].[Na+]
reactant | 9-amino-3,4-dihydroacridin-1(2H)-one | 10.00 g | NC=1C2=CC=CC=C2N=C2CCCC(C12)=O | C13H12N2O
reactant | 2-phenethyl bromide | 28 ml, 6 eq | C1=CC=C(C=C1)CCBr | C8H9Br
reactant | 2-phenethyl bromide | 28 ml | C1=CC=C(C=C1)CCBr | C8H9Br
catalyst | tetrabutylammonium hydrogensulfate | 3 g, 0.2 eq | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | 3,4-Dihydro-9-(phenethylamino)acridin-1(2H)-one | 2.52 g, 17% | C(CC1=CC=CC=C1)NC=1C2=CC=CC=C2N=C2CCCC(C12)=O | C21H20N2O
